US08058456B2
Preparation of ethyl 3-hydrazino-2,5-dioxopyrrolidine-3-carboxylate monohydrochloride
To a solution of ethyl 3-[N,N′-bis(tert-butyloxycarbonyl)hydrazino]-2,5-dioxopyrrolidine-3-carboxy late (5.77 g) in ethyl acetate (20 ml) was added a solution of 4M hydrogen chloride in ethyl acetate (25 ml) and the mixture was stirred at room temperature for 24 hours. The resulting precipitates were collected by filtering and washed with ethyl acetate to give the desired product (3.02 g, 76%) as powder. The desired product was identified to be a monohydrochloride salt thereof by the results of elementary analysis and X-ray crystallographic analysis.

reactant | ethyl 3-[N,N′-bis(tert-butyloxycarbonyl)hydrazino]-2,5-dioxopyrrolidine-3-carboxy late | 5.77 g | C(C)(C)(C)OC(=O)N(NC(=O)OC(C)(C)C)C1(C(NC(C1)=O)=O)C(=O)OCC | C17H27N3O8
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 3-hydrazino-2,5-dioxopyrrolidine-3-carboxylate monohydrochloride | 3.02 g, 76% | Cl.N(N)C1(C(NC(C1)=O)=O)C(=O)OCC | InChI=1S/C7H11N3O4.ClH/c1-2-14-6(13)7(10-8)3-4(11)9-5(7)12;/h10H,2-3,8H2,1H3,(H,9,11,12);1H
